US06887896B1
(2E)-2-Fluoro-3-(4,4-dimethyl-6-n-propoxy-1-tert-buyl-3,4-dihydronaphthalen-7-yl)-2-butenal (Compound A-66)
As described in General Procedure H-1, (2E)-2-fluoro-3-(4,4 - dimethyl-6-n-propoxy-1-tert-butyl-3,4-dihydronaphthalen-7-yl)-2-butenol (Compound A-57, 0.027 g, 0.075 mmol), tetrapropylammonium perruthenate (12 mg, 0.038 mmol) and 4-methylmorpholine N-oxide (22 mg, 0.19 mmol) were reacted in acetonitrile (0.2 mL) and dichloromethane (1 mL) to produce the title compound as an oil.

reactant | (2E)-2-fluoro-3-(4,4 - dimethyl-6-n-propoxy-1-tert-butyl-3,4-dihydronaphthalen-7-yl)-2-butenol | 0.075 mmol, 0.027 g | F\C(\CO)=C(/C)\C1=C(C=C2C(CC=C(C2=C1)C(C)(C)C)(C)C)OCCC | C23H33FO2
reactant | 4-methylmorpholine N-oxide | 0.19 mmol, 22 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 0.2 mL | C(C)#N | C2H3N
catalyst | tetrapropylammonium perruthenate | 0.038 mmol, 12 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | (2E)-2-Fluoro-3-(4,4-dimethyl-6-n-propoxy-1-tert-buyl-3,4-dihydronaphthalen-7-yl)-2-butenal | F\C(\C=O)=C(/C)\C1=C(C=C2C(CC=C(C2=C1)C(C)(C)C)(C)C)OCCC | C23H31FO2
